US03962438
2-(2-Hydroxyethyl)-10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione
57% Sodium hydride in mineral oil (8.4 g., 0.200 mol.) was added to a stirred solution of 28.0 g (0.0834 mol.) of 10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine -1,3(2H)-dione in 220 ml. of dry dimethylformamide. The mixture was stirred for 1 hour at 25°, then 54.0 g. (0.432 mol.) of 2-bromoethanol was added. The resulting mixture was stirred for 4.5 hours at 25°, then filtered. The filtrate was evaporated to dryness under reduced pressure and the residue was chromatographed on silica gel with chloroform and 90% chloroform-methanol as eluants to give the title compound, m.p. 90°-93° (methanol).

reactant | Sodium hydride | [H-].[Na+]
reactant | 10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine -1,3(2H)-dione | 0.0834 mol, 28.0 g | FC(C1=CC=2N3C4=C(C=CC=C4SC2C=C1)C(NC3=O)=O)(F)F | C15H7F3N2O2S
reactant | 2-bromoethanol | 0.432 mol | BrCCO | C2H5BrO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(2-Hydroxyethyl)-10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione | OCCN1C(N2C3=C(C=CC=C3SC=3C=CC(=CC23)C(F)(F)F)C1=O)=O | C17H11F3N2O3S
